US07935699B2
The 4-[1-(3-nitro-pyrazol-1-yl)-butyl]-benzoic acid methyl ester (127 mg, 0.42 mmol) was dissolved in ethyl acetate (3 mL) and methanol (3 mL) was added. While stirring, a 50% slurry of raney nickel in water (500 μL) was added followed by hydrazine (150 μL). Immediate effervescence was observed. The reaction continued to stir and bubble for 30 min. The reaction was passed through a plug of celite and concentrated in vacuo to afford 4-[1-(3-amino-pyrazol-1-yl)-butyl]-benzoic acid methyl ester (108 mg, 94%) as a clear oil: ESI-LRMS m/e calcd for C15H19N3O2 [M+] 273.15, found 274.29 [M+H+], 547.43 [2M+H+].

reactant | 4-[1-(3-nitro-pyrazol-1-yl)-butyl]-benzoic acid methyl ester | 0.42 mmol, 127 mg | COC(C1=CC=C(C=C1)C(CCC)N1N=C(C=C1)[N+](=O)[O-])=O | C15H17N3O4
reactant | methanol | 3 mL | CO | CH4O
reactant | hydrazine | 150 μL | NN | H4N2
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
catalyst | raney nickel | [Ni] | Ni
solvent | water | 500 μL | O | H2O
product | 4-[1-(3-amino-pyrazol-1-yl)-butyl]-benzoic acid methyl ester | 108 mg, 94% | COC(C1=CC=C(C=C1)C(CCC)N1N=C(C=C1)N)=O | C15H19N3O2
